US08207177B2
Step a: tert-Butyl{[(E)-2-((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)vinyl]sulfonyl}carbamate
tert-Butyl{[(diphenylphosphoryl)methyl]sulfonyl}carbamate (602 mg, 1.45 mmol) was dissolved in THF (50.0 mL) under an atmosphere of argon, a 1.60 M solution of n-butyllithium in hexane (1.81 mL, 2.89 mmol) was added at −50° C., and the resultant mixture was stirred for 1 h. A solution of (1R,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanecarbaldehyde (300 mg, 0.60 mmol) in THF (8.0 mL) was added to the mixture, and the resulting mixture was stirred for 30 min at room temperature. After quenching by addition of water (200 mL), the mixture was extracted with EtOAc (100 mL×3). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The residue was purified via silica gel chromatography eluting with a gradient of 10 to 60% EtOAc in hexane to afford the title compound (84.0 mg, 21%). LC/MS: Rt=1.90 min, ES+ 654 (FA standard).

reactant | tert-Butyl{[(diphenylphosphoryl)methyl]sulfonyl}carbamate | 1.45 mmol, 602 mg | C(C)(C)(C)OC(NS(=O)(=O)CP(=O)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H22NO5PS
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 2.89 mmol, 1.81 mL | CCCCCC | C6H14
reactant | (1R,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanecarbaldehyde | 0.60 mmol, 300 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)C=O | C27H36N4O2Si
solvent | THF | 50.0 mL | C1CCOC1 | C4H8O
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | tert-Butyl{[(E)-2-((1S,2S,4R)-2-{[tert-butyl(dimethyl)silyl]oxy}-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)vinyl]sulfonyl}carbamate | 84.0 mg, 21% | C(C)(C)(C)OC(NS(=O)(=O)\C=C\[C@H]1[C@H](C[C@@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)O[Si](C)(C)C(C)(C)C)=O | C33H47N5O5SSi
